US03968131
13 parts of 1-amino-2-methoxy-4-hydroxyanthraquinone, 50 parts of 2,2-diethyl-1,3-propanediol, 2.5 parts of a polyethylene oxide of average molecular weight 200 and 1.5 parts of potassium hydroxide are stirred for 2.5 hours at 160°C under nitrogen. After working up, 10 parts of 1-amino-2-(2',2'-diethyl-3'-hydroxypropanoxy)-4-hydroxyanthraquinone are obtained.

reactant | 1-amino-2-methoxy-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OC | C15H11NO4
reactant | 2,2-diethyl-1,3-propanediol | C(C)C(CO)(CO)CC | C7H16O2
reactant | potassium hydroxide | [OH-].[K+]
product | 1-amino-2-(2',2'-diethyl-3'-hydroxypropanoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCC(CO)(CC)CC | C21H23NO5
